US04552696
A. 3-Methylthio-1-(2-mercaptoethyl)pyridinium chloride
To a solution of 3-methylthiopyridine1 (2.00 g, 0.016 mol) in 10 mL of ether was added 15 mL of 1N HCl and the mixture was well shaken. The aqueous phase was separated, washed with 10 mL of ether and then evaporated. The residual hydrochloride was then dried in vacuo (P2O5) to give a white solid. To this solid hydrochloride was added 3-methylthiopyridine (1.88 g, 0.015 mol) and ethylene sulfide (0.89 mL, 0.015 mol) and the resulting mixture was heated (oil bath) at 55°-65° C. under N2 for 15 h. This gave a slightly turbid oil which was taken up in 125 mL of H2O and washed with CH2Cl2. The aqueous solution was concentrated to about 25 mL and then a few drops of acetonitrile were added to make the mixture homogeneous. The resulting aqueous solution was applied to a C18 reverse-phase column. Elution with H2O and subsequent evaporation of the relevant fractions afforded the product (2.66 g 80%) as a pale yellow, viscous oil. ir (film) νmax : 2410 (br, --SH) cm-1 ; 1Hnmr (d6 -DMSO+D2O) δ: 8.88-7.88 (m, 4H, aromatic), 4.70 (t, J=6.5 Hz, 2H, N-CH2), 3.08 (skewed t, J=6.5 Hz, 2H, S-CH2), 2.64 (s, 3H, S-Me). 1Prepared by the method of J. A. Zoltewiez and C. Nisi, J. Org. Chem. 34, 765 (1969).

reactant | HCl | 1N, 15 mL | Cl | ClH
reactant | 3-methylthiopyridine | 0.015 mol, 1.88 g | CSC=1C=NC=CC1 | C6H7NS
reactant | ethylene sulfide | 0.015 mol, 0.89 mL | C1CS1 | C2H4S
solvent | ether | 10 mL | CCOCC | C4H10O
solvent | H2O | 125 mL | O | H2O
product | 3-Methylthio-1-(2-mercaptoethyl)pyridinium chloride | [Cl-].CSC=1C=[N+](C=CC1)CCS | InChI=1S/C8H11NS2.ClH/c1-11-8-3-2-4-9(7-8)5-6-10;/h2-4,7H,5-6H2,1H3;1H
